US04025555
m-[N,N-Di-(n-hexadecyl)aminomethyl]-benzamidine
Ethyl-m-[N,N-di(n-hexadecyl)aminomethyl]-benzimidate dihydrochloride (35.0 g., 0.05 mole) was dissolved in ethanol (150 ml.) and the mixture saturated with ammonia gas at 20° C. The mixture was held for three hours at 20° C., resaturated with ammonia gas at 20° C., and then stoppered and held overnight at room temperature. The mixture was evaporated in vacuo to a solid which was triturated with acetone (200 ml.), filtered, washed with water (4 × 100 ml.), triturated again with acetone (2 × 100 ml.), filtered and dried in vacuo overnight [22.0 g., 74% yield, Rf 0.42 (4:1, benzene-ethanol on silicic acid)]. The crude product was recrystallized from hot acetone (20.9 g., 70% yield, m.p.-forms a gel at 84° C.).

reactant | Ethyl-m-[N,N-di(n-hexadecyl)aminomethyl]-benzimidate dihydrochloride | 0.05 mole, 35.0 g | Cl.Cl.C(C)OC(C1=CC(=CC=C1)CN(CCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCC)=N
reactant | ammonia | N | H3N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | m-[N,N-Di-(n-hexadecyl)aminomethyl]-benzamidine | 74% yield | C(CCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCC)CC=1C=C(C(=N)N)C=CC1 | C40H75N3
